US07820675B2
4-{2-[(5-Nitro-1-benzofuran-7-yl)oxy]ethyl}morpholine
To a test tube was added 7-iodo-5-nitrobenzofuran (1.0 g, 0.00346 mol), 4-(2-hydroxyethyl)morpholine (0.91 g, 0.00692 mol), cesium carbonate (2.25 g, 0.00692 mol), 1,10-phenanthroline (0.25 g, 0.00138 mol) and CuI (130 mg, 0.692 mmol). Toluene (15 mL) was added and the solution was heated in a StemBlock for 72 h. After filtration through Celite, the crude material was purified by flash chromatography (EtOAc/DCM; 1:1). Yield: 32%, HPLC purity=90%, m/z=293 (M+H)+.

reactant | 7-iodo-5-nitrobenzofuran | 0.00346 mol, 1.0 g | IC1=CC(=CC=2C=COC21)[N+](=O)[O-] | C8H4INO3
reactant | 4-(2-hydroxyethyl)morpholine | 0.00692 mol, 0.91 g | OCCN1CCOCC1 | C6H13NO2
reactant | cesium carbonate | 0.00692 mol, 2.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 0.00138 mol, 0.25 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
catalyst | CuI | 0.692 mmol, 130 mg | [Cu]I
solvent | Toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-{2-[(5-Nitro-1-benzofuran-7-yl)oxy]ethyl}morpholine | Yield: 32% | [N+](=O)([O-])C=1C=C(C2=C(C=CO2)C1)OCCN1CCOCC1 | C14H16N2O5
